### PR TITLE
Reorganize, generalize, and add lemmas about `path`, `cycle`, and `sorted`

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Part of #601.

- Add `allss` and `all_mask` lemmas in `seq.v`.
- Since `path`, `cycle`, and `sorted` share similar properties, these lemmas have been relocated in the same place to improve the visibility. Some missing lemmas have also been discovered and added.
- Generalize `sub_path_in`, `sub_sorted_in`, and `eq_path_in` for non-`eqType` `T` by introducing a predicate `P : {pred T}`.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/path.v [hunk 1]
```diff
@@ -137,55 +137,284 @@ Qed.
...
+Arguments mono_cycle {T T' f e e'}.
+Arguments mono_sorted {T T' f e e'}.
+
+Section HomoPath_in.
+
+Variables (T T' : Type) (P : {pred T}) (f : T -> T') (e : rel T) (e' : rel T').
+
+Lemma homo_path_in x s : {in P &, {homo f : x y / e x y >-> e' x y}} ->
+  all P (x :: s) -> path e x s -> path e' (f x) (map f s).
+Proof. by move=> f_mono; rewrite path_map; apply: sub_path_in. Qed.
```
Comment (chdoc) [inline mathcomp/ssreflect/path.v:379]: I'm a bit surprised/sad that the lemmas in this section are proved after their more specific counterparts. On the other hand, all lemmas in the `HomoPath` section are already one-liners. So maybe we can keep it as is.

**Review by chdoc — COMMENTED** [review]
This already looks very solid to me. However, I wonder whether using `subseq` rather than explicit masks would simplify things. Put differently, I wonder whether there is additional  complexity introduced by not requiring an `eqType`, and whether this is is justified by some application or model.

File: mathcomp/ssreflect/path.v [hunk 2]
```diff
@@ -517,25 +715,22 @@ elim: s [::] => /= [|x s ihs] ss allss.
...
 Qed.
 
-Lemma order_path_min x s : transitive leT -> path leT x s -> all (leT x) s.
+Lemma order_path_min x s : transitive leT -> path x s -> all (leT x) s.
 Proof.
 move=> leT_tr; elim: s => //= y [//|z s] ihs /andP[xy yz]; rewrite xy {}ihs//.
 by move: yz => /= /andP [/(leT_tr _ _ _ xy) ->].
 Qed.
 
 Hypothesis leT_tr : transitive leT.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/path.v:731]: Unfortunately, it breaks `abelian.v`. https://github.com/math-comp/math-comp/pull/358#discussion_r295259267

File: mathcomp/ssreflect/path.v [hunk 3]
```diff
@@ -137,55 +137,284 @@ Qed.
...
+Qed.
+
+Lemma path_filter_in x a s :
+  all P (x :: s) -> path leT x s -> path leT x (filter a s).
+Proof. by move=> Pxs; rewrite filter_mask; exact: path_mask_in. Qed.
+
+Lemma cycle_mask_in m s : all P s -> cycle leT s -> cycle leT (mask m s).
+Proof.
+case: (resize_mask m s) => {m} m sizeE ->.
+elim: m s sizeE => [|[]m ih] [|x s] //= [sizeE] /andP [Px Ps].
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:230]: I'd rather spend one more character to get better insight into the case analysis.
```suggestion
elim: m s sizeE => [|[|m] ih] [|x s] //= [sizeE] /andP [Px Ps].
```

File: mathcomp/ssreflect/path.v [hunk 4]
```diff
@@ -137,55 +137,284 @@ Qed.
...
+Section Transitive_in.
+
+Variables (P : {pred T}) (leT : rel T).
+Hypothesis leT_tr : {in P & &, transitive leT}.
+
+Lemma path_mask_in x m s :
+  all P (x :: s) -> path leT x s -> path leT x (mask m s).
+Proof.
+elim: m s x => [|[] m ih] [|y s] x //=.
+  by case/and3P=> ? ? ? /andP [-> /ih ->] //; apply/andP.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:217]: same here
```suggestion
elim: m s x => [|[|m] ih] [|y s] x //=.
  by move=> /and3P[? ? ?] /andP[-> /ih ->] //; apply/andP.
```

File: mathcomp/ssreflect/path.v [hunk 5]
```diff
@@ -137,55 +137,284 @@ Qed.
...
+  apply: leT_tr sx xy => //.
+  by elim: s y Ps Py => //= z s ih y /andP [Pz Ps] _; apply: ih.
+Qed.
+
+Lemma cycle_filter_in a s : all P s -> cycle leT s -> cycle leT (filter a s).
+Proof. move=> Ps; rewrite filter_mask; exact: cycle_mask_in. Qed.
+
+Lemma sorted_mask_in m s : all P s -> sorted leT s -> sorted leT (mask m s).
+Proof.
+elim: m s => [|[] m ih] [|x s] //= Pxs; first exact: path_mask_in.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:244]:
```suggestion
elim: m s => [|[|m] ih] [|x s] //= Pxs; first exact: path_mask_in.
```

File: mathcomp/ssreflect/path.v (hunk 1 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v:379]: Using general ones to prove specific ones does not help us much here, but we can place them in the opposite order (also in the same section). Let me do so.

File: mathcomp/ssreflect/seq.v [hunk 6]
```diff
@@ -1930,6 +1932,11 @@ elim: m s => [|b m IHm] [|x s] //; rewrite has_mask_cons /= andbC.
 by case: (a x) => //= /IHm.
 Qed.
 
+Lemma all_mask a m s : all a s -> all a (mask m s).
+Proof.
+by elim: m s => [|[] m IHm] [|x s] //= /andP [? /IHm ->]; rewrite ?andbT.
+Qed.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/seq.v:1938]: @chdoc Can you open a new issue for this?

File: mathcomp/ssreflect/path.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v:230]: `[]` is the case analysis for the first element of `m : bitseq` here. Your suggestion does not work.

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:230]: Ahah right!

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:230]: I got confused between the convention for natural numbers and masks.

Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:230]: New suggestion then:
```suggestion
elim: m s sizeE => [|[] m ih] [|x s] //= [sizeE] /andP[Px Ps].
```

File: mathcomp/ssreflect/path.v (hunk 1 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v]: Done.

**Comment by pi8027** [comment]
> This already looks very solid to me. However, I wonder whether using `subseq` rather than explicit masks would simplify things. Put differently, I wonder whether there is additional complexity introduced by not requiring an `eqType`, and whether this is is justified by some application or model.

In general, I would like to make `_in` lemmas general enough to derive their specific counterparts immediately. Since `(homo|mono)_(path|cycle|sorted)` lemmas have not been derived from their `_in` counterparts, this probably does not apply to this PR. But, IMO, this is quite crucial to keep PR #601 as simple as possible, since many existing lemmas which I generalize do not require an `eqType`.

Also, I observed that `homo_sorted_in` generalized in this PR is useful to prove the following lemma (I actually managed to prove it):
```coq
Lemma sort_map_in
      (T : Type) (T' : eqType) (P : {pred T}) (f : T -> T') leT leT' :
  {in P &, antisymmetric (relpre f leT')} ->
  {in P & &, transitive (relpre f leT')} -> {in P &, total leT} ->
  {in P &, {homo f : x y / leT x y >-> leT' x y}} ->
  {in all P, forall s : seq T,
        sort leT' [seq f x | x <- s] = [seq f x | x <- sort leT s]}.
```

File: mathcomp/ssreflect/seq.v (hunk 6 above)
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/seq.v:1938]: Oh, but proving `has_mask` and `all_mask` using the `subseq` lemmas specializes `T` to an `eqType`. I don't think it is a good idea.

[the remark this answers is not in the document]
Comment (chdoc) [reply mathcomp/ssreflect/seq.v:1938]: I'm of two minds about this. On the one hand, I agree that one should not require an `eqType` where none is required. On the other hand, I find it deeply unsatisfying to resort to induction just because `mathcomp` defines list membership (and hence list inclusion) only for `eqType`. Using the `In` predicate, whose use I'm really not advocating here, it's not too hard to prove:
```coq
Lemma In_mask x m s : In x (mask m s) -> In x s. 
Lemma In_all a s s' : (forall x, In x s -> In x s') -> all a s' -> all a s.

Lemma all_mask a m s : all a s -> all a (mask m s).
Proof. by apply/In_all => ?; exact: In_mask. Qed.
```
Again, this is not about this specific lemma, this is about the general principle about lists as "sets" or "collections" without equality and how to reason about them. @CohenCyril do you have an opinion on the matter?

[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/seq.v:1938]: I think we should open a new issue anyway then.

File: mathcomp/ssreflect/path.v [hunk 7]
```diff
@@ -137,55 +137,272 @@ Qed.
...
+Lemma cycle_mask_in m s : all P s -> cycle leT s -> cycle leT (mask m s).
+Proof.
+case: (resize_mask m s) => {m} m sizeE ->.
+elim: m s sizeE => [|[] m ih] [|x s] //= [sizeE] /andP[Px Ps].
+- rewrite -!cats1 -(mask_cat [:: true] [:: x]) //.
+  by apply: path_mask_in; rewrite /= all_cat /= Px Ps.
+- move=> xsx; apply: ih => // {sizeE}; case: s xsx Ps => //= y s.
+  rewrite !rcons_path => /and3P [xy -> sx] /andP [Py Ps] /=.
+  apply: leT_tr sx xy => //.
+  by elim: s y Ps Py => //= z s ih y /andP [Pz Ps] _; apply: ih.
```
Comment (chdoc) [inline mathcomp/ssreflect/path.v:236]: I'm afraid, but the lemma you removed from this PR was not the only place where the lack of an `eqType` structure makes you resort to induction where one would expect monotonicity to be used. For instance, the last line could be:
```
by apply/(@allP _ _ (y::s)); rewrite /= ?mem_last ?Py.
```
if `T` was an `eqType`. 

@CohenCyril , what's your position on this?

File: mathcomp/ssreflect/seq.v (hunk 6 above)
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:1938]: Until mathcomp introduces support for non decidable membership*, it's perfectly ok not to rely on a lemma involving `mem` to show something that does not involve it. If it really matters is is suggested one goes through `mkseqP` or `mkseq_nth` lemmas to index the biggest list with natural numbers, and hence reduce the reasoning to the eqType `nat`, (which is the best we can do when we are not able to distinguish one element from another).

*supporting non decidable predicate would be a radical modification of mathcomp and could introduce a lot of code duplication if not done properly. But on the other hand it would be extremely useful for mathcomp-analysis, and it could be a good topic of discussion for a mathcomp meeting or rather a working group on the topic.

File: mathcomp/ssreflect/path.v (hunk 7 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:236]: It's ok to "duplicate" short proofs.

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:236]: However, maybe this proof could start with `have [{}s] := mkseqP s`.

Comment (pi8027) [reply mathcomp/ssreflect/path.v:236]: I realized the fact `leT` relates all the elements of `s` if `leT` is transitive and `cycle leT s` holds. So `cycle_(filter|mask)_in` lemmas may not be that useful. Shouldn't we rather remove them for now?

File: mathcomp/ssreflect/seq.v (hunk 6 above)
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:1938]: BTW you could reuse old material with the following proof, but that would be counterproductive...
```coq
Lemma all_mask T (a : pred T) m s : all a s -> all a (mask m s).
Proof.
case: s => [|x s]; first by rewrite mask0.
have [n f {x s}_] := mkseqP x (x :: s); rewrite -map_mask !all_map.
by move=> /allP fan; apply/allP => x /mem_mask/fan.
Qed.
```

File: mathcomp/ssreflect/path.v (hunk 7 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:236]: Sure, maybe there should be a proof that `cycle leT s -> allrel leT s` ?

Comment (pi8027) [reply mathcomp/ssreflect/path.v:236]: Good. Let me do that in another PR since #630 seems to be useful for it.

File: mathcomp/ssreflect/seq.v (hunk 6 above)
[the remark this answers is not in the document]
Comment (chdoc) [reply mathcomp/ssreflect/seq.v:1938]: I opened issue #638 to organize the larger discussion on non-decidable membership and I will ignore the issue as it comes to this PR.

[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/seq.v:1938]: @chdoc Thanks!

[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/seq.v:1938]: Ah, I discovered another one-liner!
```suggestion
Lemma all_mask a m s : all a s -> all a (mask m s).
Proof. by apply/contraTT; rewrite -!has_predC; apply: has_mask. Qed.
```

[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/seq.v]: I decided to put `all_mask` before `has_mask` and shorten `has_mask` similarly.

File: mathcomp/ssreflect/seq.v [hunk 8]
```diff
@@ -1920,15 +1922,17 @@ Lemma mask_cat m1 m2 s1 s2 :
   size m1 = size s1 -> mask (m1 ++ m2) (s1 ++ s2) = mask m1 s1 ++ mask m2 s2.
 Proof. by move: m1 s1; apply: seq_ind2 => // -[] m1 x1 s1 /= _ ->. Qed.
 
+Lemma all_mask a m s : all a s -> all a (mask m s).
+Proof.
+by elim: m s => [|[] m IHm] [|x s] //= /andP [? /IHm ->]; rewrite ?andbT.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:1928]:
```suggestion
Proof. by elim: s m => [|x s IHs] [|[] m]//= /andP[ax /IHs->]; rewrite ?ax. Qed.
```

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:1928]: (the induction on `s` changes nothing but I have my own tastes :wink:

**Review by CohenCyril — APPROVED** [review]
LGTM!

**Review by chdoc — APPROVED** [review]
LGTM, too!
